US08957070B2
Methyl 4-[(2-{7-[ethyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methoxy]benzoate
N-ethyl-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (420 mg) and methyl 4-hydroxybenzoate (153 mg) were dissolved in tetrahydrofuran (10 mL), and tri-tert-butylphosphine (263 mg) and 1,1′-(azodicarbonyl)dipiperidine (328 mg) were added. The reaction mixture was stirred at room temperature for 30 min. The reaction mixture was filtrated and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and eluted with a mixture of ethyl acetate-hexane (1:1) to give the title compound (200 mg, yield 36%) as pale-yellow crystals. melting point 191° C.

reactant | N-ethyl-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 420 mg | C(C)N(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CO | C18H17N3O3S3
reactant | methyl 4-hydroxybenzoate | 153 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | tri-tert-butylphosphine | 263 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 328 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Methyl 4-[(2-{7-[ethyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methoxy]benzoate | 200 mg, yield 36% | C(C)N(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)COC1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C=1SC=CC1 | C26H23N3O5S3
